US05288748
Fuming nitric acid (100 ml), 33% in concentrated sulphuric acid was added dropwise to a solution of 72 g (0.22 mol) 8-chloro-2-(n-propylbenzoyl)amino-1,2,3,4-tetrahydronaphthalene in 300 ml nitromethane at 0° C. The mixture was allowed to reach ambient temperature and was stirred over night. After pouring on ice water/diethyl ether the mixture was basified (sodium carbonate solution) and the phases separated. The organic phase was dried (magnesium sulphate), filtered and evaporated to a residue of 65.5 g of an isomeric mixture. Elution of the mixture on a silica column (isooctane/diethyl ether, 1:1) gave 19 g of 8-chloro-5-nitro-2-(n-propylbenzoyl)amino-1,2,3,4-tetrahydronaphthalene and 12 g of the desired isomer; 8-chloro-7-nitro-2-(n-propylbenzoyl)amino-1,2,3,4-tetrahydronaphthalene. MS m/e 372 (M+, 3), 374 (M++2, isotope, 1), 105 (100), 164 (72), 77 (35), 134 (16), 165 (9).

reactant | nitric acid | 100 ml | [N+](=O)(O)[O-] | HNO3
reactant | 8-chloro-2-(n-propylbenzoyl)amino-1,2,3,4-tetrahydronaphthalene | 0.22 mol, 72 g | ClC=1C=CC=C2CCC(CC12)NC(C1=C(C=CC=C1)CCC)=O | C20H22ClNO
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | sulphuric acid | S(O)(O)(=O)=O | H2O4S
solvent | nitromethane | 300 ml | [N+](=O)([O-])C | CH3NO2
product | 8-chloro-5-nitro-2-(n-propylbenzoyl)amino-1,2,3,4-tetrahydronaphthalene | 19 g | ClC=1C=CC(=C2CCC(CC12)NC(C1=C(C=CC=C1)CCC)=O)[N+](=O)[O-] | C20H21ClN2O3
